US05631401
N,N-Di(4-phenoxybenzyl)amine
4-Phenoxybenzaldehyde was reacted with ammonium acetate to give the title compound.

reactant | 4-Phenoxybenzaldehyde | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
product | N,N-Di(4-phenoxybenzyl)amine | O(C1=CC=CC=C1)C1=CC=C(CNCC2=CC=C(C=C2)OC2=CC=CC=C2)C=C1 | C26H23NO2
